US08809267B2
8-Bromo-2-ethoxy-7-methoxy-quinolin-4-ol was synthesized according to the method presented in the synthesis of 2-ethoxy-7-methoxy-8-methyl-quinolin-4-ol in example 132 with the exception of utilizing 2-bromo-3-methoxy-aniline.

reactant | 2-ethoxy-7-methoxy-8-methyl-quinolin-4-ol | C(C)OC1=NC2=C(C(=CC=C2C(=C1)O)OC)C | C13H15NO3
reactant | 2-bromo-3-methoxy-aniline | BrC1=C(N)C=CC=C1OC | C7H8BrNO
product | 8-Bromo-2-ethoxy-7-methoxy-quinolin-4-ol | BrC=1C(=CC=C2C(=CC(=NC12)OCC)O)OC | C12H12BrNO3
